Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
PEPPERS
 
Attending: ___
 
Chief Complaint:
perforated diverticulum
 
Major Surgical or Invasive Procedure:
___ Sigmoidectomy, end colostomy (___)
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
___ w/hx of perforated diverticulitis now presenting for sigmoid
colectomy after undergoing lap washout/abx course. 

 
Past Medical History:
PMH: 
- Chronic atrial fibrillation
- Hypertension.
PSH:
- Tonsillectomy.
- Appendectomy.
- D&C.
- Fibroid ablation.
-S/P Right breast lumpectomy for DCIS
-S/P Reexploration R breast for more tissue sampling
 
Social History:
___
Family History:
Aunt with breast cancer.  Father with lung cancer.  Brother with 
prostate cancer.

 
Physical Exam:
Physical examination upon admission:  ___

FOCUSED PHYSICAL EXAMINATION:  
GENERAL: NAD
HEENT: MMM
HEART: RRR  
LUNGS: bibasilar decreased breath sounds 
ABD: soft, appropriately tender, incisions c/d/i, ostomy site 
c/d
GU: deferred
MSK/EXT: warm and perfused with 2+ distal pulses; MAE; able to
flex knees bilaterally; ___ plantarflexion/dorsiflexion

On discharge ___:

97.8 82 130/68 16 97% RA

Gen: NAD, A&O
Chest: CTA bilaterally
Abd: soft, appropriately tender at incisions, incision OTA with 
staples, stoma pink, + stool output
Extr: warm, pink, well-perfused, +PP
 
Pertinent Results:
___ 05:17AM BLOOD WBC-6.3 RBC-3.57* Hgb-10.4* Hct-31.7* 
MCV-89 MCH-29.1 MCHC-32.7 RDW-15.1 Plt ___
___ 05:25AM BLOOD WBC-6.0 RBC-3.17* Hgb-9.4* Hct-28.1* 
MCV-89 MCH-29.5 MCHC-33.3 RDW-14.7 Plt ___
___ 04:13PM BLOOD WBC-7.5 RBC-3.21* Hgb-9.4*# Hct-27.4* 
MCV-85 MCH-29.4 MCHC-34.5 RDW-14.4 Plt ___
___ 05:10AM BLOOD WBC-6.6 RBC-2.59*# Hgb-7.3*# Hct-22.5* 
MCV-87 MCH-28.4 MCHC-32.7 RDW-14.7 Plt ___
___ 03:33PM BLOOD Hct-26.1*
___ 05:17AM BLOOD Plt ___
___ 05:17AM BLOOD ___ PTT-ERROR* ___
___ 05:06AM BLOOD ___
___ 06:35AM BLOOD ___ PTT-26.4 ___
___ 05:17AM BLOOD Glucose-128* UreaN-12 Creat-1.0 Na-142 
K-4.2 Cl-106 HCO3-30 AnGap-10
___ 05:06AM BLOOD Glucose-159* UreaN-15 Creat-1.1 Na-140 
K-4.3 Cl-105 HCO3-29 AnGap-10
___ 05:25AM BLOOD Glucose-108* UreaN-17 Creat-1.3* Na-139 
K-4.2 Cl-104 HCO3-28 AnGap-11
___ 05:10AM BLOOD Glucose-147* UreaN-21* Creat-1.4* Na-141 
K-4.3 Cl-107 HCO3-27 AnGap-11
___ 03:33PM BLOOD Na-144 K-4.2 Cl-108
___ 05:17AM BLOOD Calcium-8.6 Phos-2.7 Mg-1.8
___ 05:25AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.0
___ 05:10AM BLOOD Calcium-8.1* Phos-3.1 Mg-2.1
___ 12:12PM BLOOD Hgb-10.7* calcHCT-32
___ 10:36AM BLOOD Hgb-10.6* calcHCT-32
___ 12:12PM BLOOD ___

___:  Chest x-ray:

Moderate cardiomegaly is chronic. Lung volumes are once again 
quite low.  
There are no areas of consolidation. There is mild residual 
edema in the 
right lung and plate-like atelectasis at the left base. Pleural 
effusions are small if any. No pneumothorax. Nasogastric tube 
passes into the upper 
stomach. No pneumothorax. 

___:  chest x-ray:

Greater opacification at the base of the right lung could be due 
to worsening atelectasis. Low lung volumes also exaggerate mild 
cardiomegaly, probably unchanged. Left upper lung grossly clear. 
Pleural effusions are small if any on the right. No 
pneumothorax. 

  

 
Brief Hospital Course:
___ year old female presented for elective sigmoid resection 
following episode ___ diverticulitis requiring 
laparoscopic washout.  Intra-operatively patient demonstrated 
active disease in the pelvis with multiple pockets of purulence 
in the pelvis.  Presence of this active disease and difficult 
dissection precluded primary anastomosis. An epidural catheter 
was placed pre-operatively for control of her post-operative 
pain.  Following surgery, the patient was admitted to the acute 
care surgery service on ___ and had an elective sigmoid 
resection with ___ procedure.  The patient tolerated the 
procedure well and was brought to the PACU in stable condition 
before transfer to the floor.  

Her post operative course was complicated by hypotension to SBP 
___ on floor in setting afib w RVR.  Epidural rate decreased and 
patient given fluids and IV metoprolol. She also was reported to 
have a hematocrit of 22 and required packed red blood cells. Her 
blood pressure improved slightly, but she continued in afib  
necessitating ICU transfer on POD #1.  In the ICU, the patient 
was monitored and continued on intravenous lopressor.   When 
tolerating po's on POD #2, the patient was started on home 
medication regimen at half dose.  As this proved effective 
patient transferred to the surgical floor.   

Patient completed post-op course of cephalexin. On POD #3, she 
resumed her coumadin, but was reported to have an elevated INR 
and her coumadin was held for the remainder of her 
hospitalization.  On the day of discharge on ___, INR remained 
elevated at 3.5, but stable and downtrending. She was discharged 
with instructions to follow up with her PCP and have an INR 
recheck on ___.
Her vital signs remained stable and she was afebrile. She 
reported nausea and her flagyl and ciprofloxacin were 
discontinued and the nausea resolved.  She slowly advanced from 
clears to a regular diet.  The ostomy nurse was consulted and 
provided instruction and supervision in the management of her 
ostomy.  Her ostomy was functioning well with stool and gas 
output.

Vital signs have been stable and she has been afebrile.  She has 
tolerated a regular diet. Her white blood cell count has 
normalized at 6.3 and her hematocrit at 31.7. Her pain is well 
controlled with an oral pain regimen and she is out of bed 
ambulating independently.

She is preparing for discharge home with follow-up scheduled 
with her PCP ___ ___ to follow her INR and scheduled follow 
up in in ___ clinic on ___.

 
Medications on Admission:
___: metoprolol 100mg'', diltiazem ER 120mg', coumadin 5mg 
 
Discharge Medications:
1. diltiazem HCl 120 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO DAILY (Daily).  
2. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO BID 
(2 times a day).  
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
4. oxycodone 5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain: may cause sedation.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital to have a part of your colon 
resected related to diverticulitis.  You had a colostomy as part 
of your procedure. Because you had a large fluid requirement 
after the procedure, you were transferred to the intensive care 
unit where you were closely monitored. Your coumadin was 
resumed, but you were found to have an elevated INR, and it has 
been held until it returns to baseline.  Your blood work and 
vital signs are stable and you are preparing for dishcarge home 
with the following instructions.  You will need to have your INR 
monitored and follow up with your PCP at the appointment 
scheduled for you below.  Do not take your coumadin until your 
PCP tells you it is okay to resume it. You are being discharged 
with the following instructions:

ACTIVITY:
 
Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
You may climb stairs. 
You may go outside, but avoid traveling long distances until you 
see your surgeon at your next visit.
Don't lift more than ___ lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.)
You may start some light exercise when you feel comfortable.
You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 
HOW YOU MAY FEEL: 
 
You may feel weak or "washed out" for 6 weeks. You might want to 
nap often. Simple tasks may exhaust you.
You may have a sore throat because of a tube that was in your 
throat during surgery.
You might have trouble concentrating or difficulty sleeping. You 
might feel somewhat depressed.
You could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
Your incision may be slightly red around the staples. This is 
normal.
You may gently wash away dried material around your incision.
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless you were told 
otherwise.
You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent.
Your staples should be removed by the visiting nurses between 
the dates of ___ and ___.

YOUR BOWELS:
Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
If you go 48 hours without stool or gas in your ostomy bag, call 
your surgeon.
After some operations, diarrhea can occur. If you get diarrhea, 
don't take anti-diarrhea medicines. Drink plenty of fluids and 
see if it goes away. If it does not go away, or is severe and 
you feel ill, please call your surgeon.
 
 
PAIN MANAGEMENT:
It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. Do not take it more frequently than prescribed. Do 
not take more medicine at one time than prescribed.
Your pain medicine will work better if you take it before your 
pain gets too severe.
Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when you cough 
or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.
 
DANGER SIGNS:
Please call your surgeon if you develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase in drainage from the wound
 
Followup Instructions:
___